* C:\Users\Zeker\Documents\ITBA\2020\1er cuatri\Electro IV\Github posta\e4-tp3\simulaciones\Parte 3\Parte3 con realimentación.asc
XU1 N001 N002 N003 N004 angular_speed torque 3ph_ACMotor Zp=2 J=20m DY=1 Pn=1.1k fn=50 Vn=400 eff=0.76 phi=0.77 slip=30m Lm=350.15m Ls=26.43m Lr=18.8m Rf=2k Rs=7.5 Rr=5.5
XU2 N001 N002 N003 0 FREQ V NC_01 3ph_gen sym=1 f=50 amp=325 phi=0 Ro=1 N={2*k+1} dc1=0 dc2=0 dc3=0 A1=1 A2=1 A3=1 h1=0 h2=0 h3=0 phi1=0 phi2=0 phi3=0 a=0 b=0 c=0 d=0 e=0 p=1 q=0 xp=1 xq=1 ma=0 mb=0
C1 N004 0 1n
R1 N005 FREQ 82K
XU3 N005 N006 FREQ opamp Aol=100K GBW=10Meg
V1 N006 0 PWL({t1} {f/k} {t2} {f})
R2 angular_speed N005 47K
C2 N005 FREQ 5.6µ
E1 V 0 FREQ 0 {V/f}
B1 angular_speed 0 I=10*(tanh(100*time-255)+tanh(450-100*time))
.param V=380 f=50 k=10
+ t1=1/f t2=20/f
.tran 7
.lib opamp.sub
.lib pwr.sub
.backanno
.end
