* C:\Users\Juan Martin\Downloads\inverter_mono.asc
XU1 QAc+ QAc- Vcc QA- MP_01 BOOT QA+ A 0 LTC4446
D1 Vcc BOOT RFN1L6S
V1 Vcc 0 15
V2 QAc+ 0 PULSE(0 5 0 100n 10n 9.9u 20u)
V3 QAc- 0 PULSE(0 5 10u 100n 10n 9.9u 20u)
C1 BOOT A 10µ
V4 N001 0 100
M1 N001 QA+ A A SPA11N60C3
M2 A QA- 0 0 SPA11N60C3
D2 A N001 D
D3 0 A D
L1 A N002 1m
R1 Vo N002 20
C2 Vo 0 47µ
C3 N001 Vo 47µ
.model D D
.lib C:\Users\Juan Martin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Juan Martin\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25.5m 25m 1u
.lib LTC4446.sub
.backanno
.end
